* source TMACONTROL
.EXTERNAL INPUT GPIO.29
.EXTERNAL INPUT GPIO.28
.EXTERNAL INPUT PTT
X_U1         GPIO.29 0 PTT 0 awbpc816 PARAMS:                                 
V_V1         N14838 0 5V
V_V2         GPIO.29 0  
+PULSE 0V 3.3V 0ms 0ms 0ms 5ms 10ms
R_R4         PTT N14838  4.7k TC=0,0 
R_R1         GPIO.29 0  10k TC=0,0 
