* source TMACONTROL
X_U1         GPIO.29.PIN40 0 PTT.PIN3 0 awbpc816 PARAMS:                       
+           
R_R2         PTT.PIN3 GPIO.5V  4.7k TC=0,0 
R_R1         GPIO.29.PIN40 0  10k TC=0,0 
V_V2         GPIO.29.PIN40 0  
+PULSE 0V 3.3V 0ms 0ms 0ms 5ms 10ms
V_V1         GPIO.5V 0 5V
